US08211618B2
With stirring and ice cooling, 111 g of triethylamine was added to a mixture of 120 g of methacrylic acid chloride, 170 g of 1-hydroxyacenaphthene, and 1500 g of toluene. The mixture was stirred at room temperature for 16 hours. By standard aqueous work-up and solvent distillation, a crude product was obtained. It was purified by column chromatography, yielding the target compound, acenaphthenyl methacrylate.

reactant | triethylamine | 111 g | C(C)N(CC)CC | C6H15N
reactant | methacrylic acid chloride | 120 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | 1-hydroxyacenaphthene | 170 g | OC1CC2=CC=CC3=CC=CC1=C23 | C12H10O
solvent | toluene | 1500 g | C1(=CC=CC=C1)C | C7H8
product | acenaphthenyl methacrylate | C(C(=C)C)(=O)OC1CC2=CC=CC3=CC=CC1=C23 | C16H14O2
